.subckt full_adder x1 x2 cin sum cout vdd gnd
xg1 x1 x2 y0 vdd gnd xor
xg2 y0 cin sum vdd gnd xor
xag1 x1 x2 y1 vdd gnd and
xag2 cin y0 y2 vdd gnd and
xog1 y1 y2 cout vdd gnd or
.ends full_adder
*to call a subcircuit - name ip/op nameofsubcircuit