.subckt half_adder x1 x2 sum carry vdd gnd
xg1 x1 x2 sum vdd gnd xor
xag1 x1 x2 carry vdd gnd and
.ends half_adder
*to call a subcircuit - name ip/op nameofsubcircuit