.subckt nand x1 x2 y vdd gnd
*MOSFETS - drain gate source body pmos/nmos W L
Mp1 y x1 vdd vdd CMOSP W={width_P} L={LAMBDA} AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp2 y x2 vdd vdd CMOSP W={width_P} L={LAMBDA} AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mn1 y x1 node0 gnd CMOSN W={width_N} L={LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mn2 node0 x2 gnd gnd CMOSN W={width_N} L={LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends nand