.subckt not x y vdd gnd
*not gate
Mp1 y x vdd vdd CMOSP W={width_P} L={LAMBDA} AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mn1 y x gnd gnd CMOSN W={width_N} L={LAMBDA} AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends not