.subckt nand x1 x2 y vdd gnd
.include 22nm_MGK.pm
Mp1 y x1 vdd vdd pmos W={w} L={l}
Mp2 y x2 vdd vdd pmos W={w} L={l}
Mn1 node0 x1 gnd gnd nmos W={w} L={l}
Mn2 y x2 node0 GND nmos W={w} L={l}

.ends nand