.include 22nm_MGK.pm
.include nand.sub

*Voltage source
VDD vdd GND 1

n1 nodeA nodeC node1 vdd GND nand
n2 nodeC nodeD node2 vdd GND nand
n3 nodeB node2 node3 vdd GND nand
n4 node2 nodeE node4 vdd GND nand
n5 node1 node3 node5 vdd GND nand
n6 node4 node3 node6 vdd GND nand


